US09216972B2
To a mixture of 2-(2,2-dimethyl-1,3-dioxolan-4-yl)-7,8-dihydroquinolin-5(6H)-one (0.182 g, 0.736 mmol) and morpholine (0.321 mL, 3.68 mmol) in toluene (3 mL) at 0° C. was added titanium(IV) chloride (1.0 M in toluene) (0.405 mL, 0.405 mmol) dropwise. The ice-bath was removed, and the orange, heterogeneous reaction mixture was stirred at room temperature overnight. The reaction mixture was filtered through a pad of CELITE®, which was then rinsed with toluene (3×10 mL). The pale yellow filtrate was concentrated under reduced pressure to give 4-(2-(2,2-dimethyl-1,3-dioxolan-4-yl)-7,8-dihydroquinolin-5-yl)morpholine (0.194 g, 0.613 mmol, 83% yield) as a yellow oil.

reactant | 2-(2,2-dimethyl-1,3-dioxolan-4-yl)-7,8-dihydroquinolin-5(6H)-one | 0.736 mmol, 0.182 g | CC1(OCC(O1)C1=NC=2CCCC(C2C=C1)=O)C | C14H17NO3
reactant | morpholine | 3.68 mmol, 0.321 mL | N1CCOCC1 | C4H9NO
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | titanium(IV) chloride | 0.405 mmol, 1.0 M, 0.405 mL | [Ti](Cl)(Cl)(Cl)Cl
product | 4-(2-(2,2-dimethyl-1,3-dioxolan-4-yl)-7,8-dihydroquinolin-5-yl)morpholine | 0.613 mmol, 0.194 g, 83% yield | CC1(OCC(O1)C1=NC=2CCC=C(C2C=C1)N1CCOCC1)C | C18H24N2O3
